### PR TITLE
[Merged by Bors] - feat: Expectation of a function over  a finset

### PR DESCRIPTION
**Pull request by YaelDillies**
Define the expectation of a function `f : ι → M` over a finset `s : Finset ι` as `∑ i ∈ s, f i` divided by `s.card`.

Naïvely, this requires `M` to be a semifield but, since `s.card⁻¹` is rational, we can get away with assuming `M` to be a `NNRat`-module. This generality is important to talk about expectation of functions.

From LeanAPAP

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/BigOperators/Expect.lean [hunk 1]
```diff
@@ -0,0 +1,400 @@
...
+@[simp] lemma expect_empty (f : ι → M) : expect ∅ f = 0 := by simp [expect]
+@[simp] lemma expect_singleton (f : ι → M) (i : ι) : expect {i} f = f i := by simp [expect]
+@[simp] lemma expect_const_zero (s : Finset ι) : 𝔼 _i ∈ s, (0 : M) = 0 := by simp [expect]
+
+@[congr]
+lemma expect_congr {t : Finset ι} (hst : s = t) (h : ∀ i ∈ t, f i = g i) :
+    𝔼 i ∈ s, f i = 𝔼 i ∈ t, g i := by rw [expect, expect, sum_congr hst h, hst]
+
+lemma expectWith_congr (p : ι → Prop) [DecidablePred p] (h : ∀ i ∈ s, p i → f i = g i) :
+    𝔼 i ∈ s with p i, f i = 𝔼 i ∈ s with p i, g i :=
```
Comment (Command-Master) [inline Mathlib/Algebra/BigOperators/Expect.lean:110]: This is more `expectWith_congrFun`, not a fully general congruence, which could be
```lean
lemma expectWith_congr (p q : ι → Prop) [DecidablePred p] [DecidablePred q] (hst : s = t)
    (hpq : ∀ i ∈ s, p i ↔ q i) (h : ∀ i ∈ s, p i → f i = g i) :
    𝔼 i ∈ s with p i, f i = 𝔼 i ∈ t with q i, g i
```

File: Mathlib/Algebra/BigOperators/Expect.lean [hunk 2]
```diff
@@ -0,0 +1,397 @@
...
+## Notation
+
+* `𝔼 i ∈ s, f i` is notation for `Finset.expect s f`. It is the expectation of `f i` where `i`
+  ranges over the finite set `s` (either a `Finset` or a `Set` with a `Fintype` instance).
+* `𝔼 i, f i` is notation for `Finset.expect Finset.univ f`. It is the expectation of `f i` where `i`
+  ranges over the finite domain of `f`.
+* `𝔼 i ∈ s with p i, f i` is notation for `Finset.expect (Finset.filter p s) f`. This is referred to
+  as `expectWith` in lemma names.
+* `𝔼 (i ∈ s) (j ∈ t), f i j` is notation for `Finset.expect (s ×ˢ t) (fun ⟨i, j⟩ ↦ f i j)`.
+-/
```
Comment (b-mehta) [inline Mathlib/Algebra/BigOperators/Expect.lean:26]:
```suggestion
  as `expectWith` in lemma names.
* `𝔼 (i ∈ s) (j ∈ t), f i j` is notation for `Finset.expect (s ×ˢ t) (fun ⟨i, j⟩ ↦ f i j)`.

## TODO

* Connect `Finset.expect` with the expectation over `s` in the probability theory sense.
-/
```

File: Mathlib/Algebra/BigOperators/Expect.lean [hunk 3]
```diff
@@ -0,0 +1,397 @@
...
+      if ppDomain then
+        let ty ← withNaryArg 0 delab
+        `(bigOpBinder| $(.mk i):ident : $ty)
+      else
+        `(bigOpBinder| $(.mk i):ident)
+    `(𝔼 $binder:bigOpBinder, $body)
+  else
+    let ss ← withNaryArg 3 $ delab
+    `(𝔼 $(.mk i):ident ∈ $ss, $body)
+
```
Comment (eric-wieser) [inline Mathlib/Algebra/BigOperators/Expect.lean:87]: Can you dedup this with the `Finset.sum` printer somehow?

Comment (YaelDillies) [reply Mathlib/Algebra/BigOperators/Expect.lean:87]: Sounds too fragile. I would need to keep the argument orders in sync (note that `expect` has a `Module _ _` argument which `sum` and `prod` don't have OR make the general delaborator parametric over the argument order, but I don't know how to make a parametric match

**Comment by Command-Master** [comment]
This is [Finset.centerMass](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/Convex/Combination.html#Finset.centerMass) with a constant weight of `1`, right?

**Comment by YaelDillies** [comment]
Yes and no:
* Yes, there is a common generalisation of `Finset.centerMass` and `Finset.expect`
* No, this common generalisation is far away, because I have a huge refactor of convexity in the works and I can't ensure `Finset.centerMass` will stay the way it is

**Comment by b-mehta** [comment]
Unrequesting my review for this because I wrote early versions of this API

**Comment by eric-wieser** [comment]
Should I take that as you bring happy with this version, @b-mehta? I agree that means you probably shouldn't merge, but an approval would be a valuable signal!

File: Mathlib/Algebra/BigOperators/Expect.lean [hunk 4]
```diff
@@ -0,0 +1,402 @@
...
+namespace Finset
+section AddCommMonoid
+variable [AddCommMonoid M] [Module ℚ≥0 M] [AddCommMonoid N] [Module ℚ≥0 N] {s t : Finset ι}
+  {f g : ι → M} {m : N → M} {p q : ι → Prop} [DecidablePred p] [DecidablePred q]
+
+lemma expect_univ [Fintype ι] : 𝔼 i, f i = (∑ i, f i) /ℚ Fintype.card ι := by
+  rw [expect, card_univ]
+
+@[simp] lemma expect_empty (f : ι → M) : expect ∅ f = 0 := by simp [expect]
```
Comment (b-mehta) [inline Mathlib/Algebra/BigOperators/Expect.lean:105]: Let's use the notation here and below

File: Mathlib/Algebra/BigOperators/Expect.lean [hunk 5]
```diff
@@ -0,0 +1,402 @@
...
+    (h : ∀ a ∈ s, f a = g (i a)) : 𝔼 i ∈ s, f i = 𝔼 i ∈ t, g i := by
+  simp_rw [expect, card_nbij' i j hi hj left_inv right_inv,
+    sum_nbij' i j hi hj left_inv right_inv h]
+
+/-- `Finset.expect_equiv` is a specialization of `Finset.expect_bij` that automatically fills in
+most arguments. -/
+lemma expect_equiv (e : ι ≃ κ) (hst : ∀ i, i ∈ s ↔ e i ∈ t) (hfg : ∀ i ∈ s, f i = g (e i)) :
+    𝔼 i ∈ s, f i = 𝔼 i ∈ t, g i := by simp_rw [expect, card_equiv e hst, sum_equiv e hst hfg]
+
+lemma expect_product' (f : ι → κ → M) : 𝔼 i ∈ s ×ˢ t, f i.1 i.2 = 𝔼 i ∈ s, 𝔼 y ∈ t, f i y := by
```
Comment (b-mehta) [inline Mathlib/Algebra/BigOperators/Expect.lean:230]: Let's add expect_product too

File: Mathlib/Algebra/BigOperators/Expect.lean [hunk 6]
```diff
@@ -0,0 +1,402 @@
...
+
+end Semiring
+
+section CommSemiring
+variable [CommSemiring M] [Module ℚ≥0 M] [IsScalarTower ℚ≥0 M M] [SMulCommClass ℚ≥0 M M]
+
+local notation:70 s:70 " ^^ " n:71 => Fintype.piFinset fun _ : Fin n ↦ s
+
+lemma expect_pow (s : Finset ι) (f : ι → M) (n : ℕ) :
+    (𝔼 i ∈ s, f i) ^ n = 𝔼 p ∈ s ^^ n, ∏ i, f (p i) := by
```
Comment (b-mehta) [inline Mathlib/Algebra/BigOperators/Expect.lean:311]: Not sure the notation is worth it here

**Review by b-mehta — APPROVED** [review]

File: Mathlib/Algebra/BigOperators/Expect.lean [hunk 7]
```diff
@@ -0,0 +1,403 @@
...
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Yaël Dillies, Bhavik Mehta
+-/
+import Mathlib.Algebra.Algebra.Rat
+import Mathlib.Algebra.BigOperators.Ring
+import Mathlib.Data.Finset.Pointwise.Basic
+import Mathlib.Data.Fintype.BigOperators
+import Mathlib.GroupTheory.GroupAction.BigOperators
+
+/-!p
```
Comment (b-mehta) [inline Mathlib/Algebra/BigOperators/Expect.lean:12]: typo?

File: Mathlib/Algebra/BigOperators/Expect.lean [hunk 8]
```diff
@@ -0,0 +1,403 @@
...
+lemma _root_.Fintype.expect_eq_sum_div_card [Fintype ι] (f : ι → M) :
+    𝔼 i, f i = (∑ i, f i) / Fintype.card ι := Finset.expect_eq_sum_div_card _ _
+
+lemma expect_div (s : Finset ι) (f : ι → M) (a : M) : (𝔼 i ∈ s, f i) / a = 𝔼 i ∈ s, f i / a := by
+  simp_rw [div_eq_mul_inv, expect_mul]
+
+end Semifield
+end Finset
+
+namespace algebraMap
```
Comment (b-mehta) [inline Mathlib/Algebra/BigOperators/Expect.lean:344]: Don't you want AlgebraMap here?

**Review by b-mehta — APPROVED** [review]
I'm happy modulo changes mentioned above!

File: Mathlib/Algebra/BigOperators/Expect.lean (hunk 8 above)
Comment (b-mehta) [reply Mathlib/Algebra/BigOperators/Expect.lean:344]: Weird, but okay!

**Review by Parcly-Taxel — APPROVED** [review]

File: Mathlib/Algebra/BigOperators/Expect.lean [hunk 9]
```diff
@@ -0,0 +1,403 @@
...
+    (h : ∀ a ∈ s, f a = g (i a)) : 𝔼 i ∈ s, f i = 𝔼 i ∈ t, g i := by
+  simp_rw [expect, card_nbij' i j hi hj left_inv right_inv,
+    sum_nbij' i j hi hj left_inv right_inv h]
+
+/-- `Finset.expect_equiv` is a specialization of `Finset.expect_bij` that automatically fills in
+most arguments. -/
+lemma expect_equiv (e : ι ≃ κ) (hst : ∀ i, i ∈ s ↔ e i ∈ t) (hfg : ∀ i ∈ s, f i = g (e i)) :
+    𝔼 i ∈ s, f i = 𝔼 i ∈ t, g i := by simp_rw [expect, card_equiv e hst, sum_equiv e hst hfg]
+
+lemma expect_product (f : ι × κ → M) : 𝔼 x ∈ s ×ˢ t, f x = 𝔼 i ∈ s, 𝔼 j ∈ t, f (i, j) := by
```
Comment (b-mehta) [inline Mathlib/Algebra/BigOperators/Expect.lean:230]: Let's add a comment about the rewrite direction of these, like we have in the finset versions of similar lemmas

File: Mathlib/Algebra/BigOperators/Expect.lean [hunk 10]
```diff
@@ -0,0 +1,403 @@
...
+  ranges over the finite set `s` (either a `Finset` or a `Set` with a `Fintype` instance).
+* `𝔼 i, f i` is notation for `Finset.expect Finset.univ f`. It is the expectation of `f i` where `i`
+  ranges over the finite domain of `f`.
+* `𝔼 i ∈ s with p i, f i` is notation for `Finset.expect (Finset.filter p s) f`. This is referred to
+  as `expectWith` in lemma names.
+* `𝔼 (i ∈ s) (j ∈ t), f i j` is notation for `Finset.expect (s ×ˢ t) (fun ⟨i, j⟩ ↦ f i j)`.
+
+## TODO
+
+Connect `Finset.expect` with the expectation over `s` in the probability theory sense.
```
Comment (b-mehta) [inline Mathlib/Algebra/BigOperators/Expect.lean:29]:
```suggestion
Connect `Finset.expect` with the expectation over `s` in the probability theory sense.
Give a formulation of Jensen's inequality and the Cauchy-Schwarz inequality in this language.
```

File: Mathlib/Algebra/BigOperators/Expect.lean [hunk 11]
```diff
@@ -0,0 +1,403 @@
...
+-/
```
Comment (b-mehta) [inline Mathlib/Algebra/BigOperators/Expect.lean:30]: imo we should add an implementation note here explaining why this definition is helpful to have, as it isn't immediately clear otherwise. That is, why is this useful when probability expectation exists, and why is it not just an abbreviation on top of Finset.sum. Of course I'm fully on board with this definition being in mathlib, but to future readers / contributors these factors may not be clear.

**Review by b-mehta — APPROVED** [review]
LGTM, but as mentioned above I'd like others to review and merge, not me.

File: Mathlib/Algebra/BigOperators/Expect.lean (hunk 11 above)
Comment (YaelDillies) [reply Mathlib/Algebra/BigOperators/Expect.lean:41]: I'm not sure I addressed exactly your point. Please comment if you want further modifications

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge

**Comment by riccardobrasca** [comment]
bors d+

**Comment by YaelDillies** [comment]
bors merge
